********************************************************************************************************
*
* Nexperia PMV60ENEA
* Polarity N - Channel
* Ratings 40V/60.0mOhm/15A
* Revision N#: 1.0
* Created on 2019-04-23 10:01:49
* Please visit www.nexperia.com for latest revision release
*
********************************************************************************************************
*
* Model generated by Nexperia
* Copyright(c) 2018
* All rights reserved
*
* Contains proprietary information which is the property of Nexperia.
*
********************************************************************************************************

.SUBCKT PMV60ENEA D G S

* Package impedance
LD D 5 400.0p
RLD2 D 5 1.005
RLD1 5 4 2.300m
LG G 1 759.3p
RLG G 1 1.908
LS S 8 666.5p
RLS2 S 8 1.675
RLS1 8 7 7.598m

* Drain,gate and source resistances
RD 3 4 43.41m TC= 3.017m,1.003n
RG 1 2 11.00
RS 6 7 1.000u

* Body Diode
RBD 9 4 6.115m TC= 4.000m,23.00u
DBD 7 9 D_DBD
RDS 7 4 95.36G TC= -5.000m

* Internal MOS
M1 3 2 6 6 MINT

* Gate leakage and gate capacitance
RGS 2 6 4.057MEG
CGS 2 6 157.1p

* CGD
C11 11 12 1E-12
V11 11 0 0Vdc
G11 3 2 VALUE {V(13,0)*I(V11)}
E11 12 0 3 2 1
E12 13 0 TABLE {V(12)}
+ (-10.0,315.0) (-2.7,315.0) (0.1,68.913) (0.2,63.741) (0.5,53.267) (1.0,44.326) (2.0,36.604) (3.0,32.858) (4.0,30.553) (5.0,28.864) (6.0,27.515) (8.0,25.48) (10.0,24.025) (12.0,22.93) (15.0,21.699) (20.0,20.254) (32.0,18.1) (40.0,17.125)

.MODEL MINT NMOS Vto= 1.867 Kp= 18.71 Nfs= 334.0G Eta= 0.000
+ Level= 3 Gamma= 0.000 Phi= 600.0m Is= 1.000E-24 UO= 600.0
+ Js= 0.000 Pb= 800.0m Cj= 0.000 Cjsw= 0.000 Cgso= 0.000 Cgdo= 0.000 Cgbo= 0.000
+ Tox= 100.0n Xj= 0.000
+ Vmax= 846.2

.MODEL D_DBD D Bv= 45.34 Ibv= 250.0u Rs= 1.000u Is= 104.3f
+ N= 1.000 M= 401.7m VJ= 200.0m Fc= 500.0m Cjo= 226.4p Tt= 18.50n

.ENDS PMV60ENEA

********************************************************************************************************
* - Limited warranty and liability -
*
* Information in this document is believed to be accurate and reliable. However,Nexperia does not give
* any representations or warranties,expressed or implied,as to the accuracy or completeness of such
* information and shall have no liability for the consequences of use of such information.
* Nexperia takes no responsibility for the content in this document if provided by an information source
* outside of Nexperia. In no event shall Nexperia be liable for any indirect,incidental,punitive,
* special or consequential damages (including - without limitation - lost profits,lost savings,
* business interruption,costs related to the removal or replacement of any products or rework charges)
* whether or not such damages are based on tort (including negligence),warranty,breach of contract or
* any other legal theory. Notwithstanding any damages that customer might incur for any reason whatsoever,
* Nexperia's aggregate and cumulative liability towards customer for the products described herein shall
* be limited in accordance with the Terms and conditions of commercial sale of Nexperia.
*
********************************************************************************************************