*****************************************************************
* NEXPERIA PMV19XNEA
*
* Polarity N-Channel
* Ratings 30V/1.900000E-002OHMS/7.2A
*
* Date Created Mon Dec 15 06:01:58 2014
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PMV19XNEA DRAIN GATE SOURCE

LD DRAIN 5 4e-10
RLD2 DRAIN 5 1.00530964914873
RLD1 5 4 0.0006
LG GATE 1 5.01651684333315e-10
RLG GATE 1 1.26078819692999
LS SOURCE 8 6.49325254419028e-10
RLS2 SOURCE 8 1.63193235925851
RLS1 8 7 0.00461450722604978

RDS 7 4 10000000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.0116657554007445 TC=0.00764771980496773,-5.10170129472485E-07
RBD 9 4 0.014117351434903 TC=0.00764771980496773,-5.10170129472485E-07
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 4733727810.65089
CGS 2 6 1.065e-09
RG 1 2 1.8

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -12	1621.44
+ -10	1619.99
+ -8	1617.79
+ -6	1614.28
+ -5	1611.4
+ -4	1607.08
+ -3	1599.87
+ -2	1583.19
+ -1	1328.14
+ -0.5	882.748
+ -0.2	706.797
+ -0.1	702.608
+ 0	585.681
+ 0.1	468.601
+ 0.2	467.94
+ 0.5	307.827
+ 1	209.667
+ 2	157.002
+ 3	134.772
+ 4	121.091
+ 5	111.064
+ 6	103.511
+ 8	92.8404
+ 10	85.5114
+ 12	80.0712
+ 15	74.1459
+ 16	72.4999
+ 20	67.7224
+ 25	63.688
+ 30	60.9585



.MODEL MINT NMOS(Vto=1.034210101435418 Kp=1.293234e+002 Nfs=263500000000 Eta=4500
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=2700)

.MODEL DBD D(Bv=36.1 Ibv=2.500000E-004 Rs=1E-6 Is=3.98634638827827e-12
+ N=1 M=0.5 VJ=0.5 Fc=0.5 Cjo=9.15559999999999e-11 Tt=1.85e-08)

.ENDS

