* US6K1 NMOSFET model
* Model Generated by ROHM
* All Rights Reserved
* Commercial Use or
* Resale Restricted
* Date: 2011/03/30
**************D G S
.SUBCKT US6K1 1 2 3
M1   11 22 3 3 MOS_N
D1         3 1 DDS
R1        1 11 RTH 123m
D2       22 11 DDG
R2        2 22 35
.MODEL MOS_N NMOS
+ LEVEL=3
+ L=2.0000E-6
+ W=1
+ KP=15.936E-6
+ RS=10.000E-3
+ RD=0
+ VTO=1.2409
+ RDS=30.000E6
+ TOX=2.0000E-6
+ CGSO=33p
+ CGDO=10p
+ CBD=0
+ RG=0
+ N=2
+ RB=1.0000E-3
+ GAMMA=0.5
+ ETA=0.001
+ KAPPA=0
+ NFS=12G
.MODEL DDS D
+ IS=3.6245E-12
+ N=1.1731
+ RS=58.890E-3
+ IKF=21.743
+ CJO=15.149E-12
+ M=.76794
+ VJ=.77123
+ BV=30
+ TT=20n
.MODEL DDG D
+ CJO=50.807E-12
+ M=1.2185
+ VJ=.75632
+ N=10000
+ FC=-0.3
.MODEL RTH RES
+ TC1=0.0047
+ TC2=0.000008
.ENDS US6K1
