*********************************************************************
*  (C)  Copyright  TOSHIBA CORPORATION  2016
*  Date                 :20/09/2016
*  File Name            :SSM6K405TU.lib
*  Part Number          :SSM6K405TU
*  Parameter Ver.       :Ver.1
*  Simulator            :PSpice
*  Model Call Name      :NMOS_SSM6K405TU
*  TNOM                 :25 degree
*  Pin Assign           :1=Drain 2=Gate 3=Source
*
* This PSpice model is provided with OLB file. The symbol is
* simplified for PSpice simulation. It is different from original
* device. Please check the technical data sheet or Toshiba website.
*
* The Pin assignment of this PSpice model is for PSpice simulation
* only. It is different from actual device. Please check the technical
* data sheet or Toshiba website.
*********************************************************************
.SUBCKT NMOS_SSM6K405TU 1 2 3
M0 1 22 3 3 SSM6K405TU_MOS
+ L = 5E-006
+ W = 0.1146
+ AD = 1.146E-007
+ AS = 1.146E-007
+ PD = 0.2292
+ PS = 0.2292
D0 3 1 SSM6K405TU_DDS1
D1 3 1 SSM6K405TU_DDS2
D2 22 10 SSM6K405TU_DGS1
D3 3 10 SSM6K405TU_DGS2
R1 10 3 1E+009
R2 10 22 1E+009
RG 2 22 12
.MODEL SSM6K405TU_MOS NMOS(
+ LEVEL = 7
+ MOBMOD = 1
+ CAPMOD = 3
+ NOIMOD = 1
+ TOX = 1.5E-008
+ XJ = 1.5E-007
+ NCH = 1.7E+017
+ NGATE = 0
+ RSH = 0
+ TNOM = 25
+ VTH0 = 0.8625
+ VOFF = -0.08
+ NFACTOR = 1.337
+ U0 = 3064
+ K1 = 0.5
+ K2 = 0
+ K3 = 80
+ K3B = 0
+ W0 = 2.5E-006
+ NLX = 1.74E-007
+ DVT0 = 2.2
+ DVT1 = 0.53
+ DVT2 = -0.032
+ DVT0W = 0
+ DVT1W = 5.3E+006
+ DVT2W = -0.032
+ DWG = 0
+ DWB = 0
+ UA = 1.498E-009
+ UB = 5.87E-019
+ UC = -4.56E-011
+ VSAT = 1.341E+005
+ A0 = 0.3335
+ AGS = 0.5552
+ B0 = 0
+ B1 = 0
+ KETA = -0.047
+ A1 = 0
+ A2 = 1
+ DELTA = 0.01923
+ RDSW = 6834
+ PRWG = 0
+ PRWB = 0
+ WR = 1
+ CDSC = 0.00024
+ CDSCD = 0
+ CDSCB = 0
+ CIT = 0
+ ETA0 = 0.08
+ ETAB = -0.07
+ DSUB = 0.56
+ PCLM = 1.3
+ PDIBLC1 = 0.39
+ PDIBLC2 = 0.001
+ PDIBLCB = 0
+ DROUT = 0.56
+ PSCBE1 = 4.24E+008
+ PSCBE2 = 1E-012
+ PVAG = 0
+ ALPHA0 = 0
+ ALPHA1 = 0
+ BETA0 = 30
+ NJ = 1
+ JS = 0
+ XPART = 0
+ CGSO = 8.247E-009
+ CGDO = 1E-011
+ CGBO = 0
+ CGDL = 3.082E-008
+ CGSL = 5.408E-011
+ CKAPPA = 0.4188
+ CF = 1E-012
+ CLC = 1E-007
+ CLE = 0.6
+ VOFFCV = 0
+ NOFF = 1
+ DLC = 0
+ ACDE = 1
+ MOIN = 15
+ CJ = 1E-012
+ CJSW = 1E-012
+ CJSWG = 1E-012
+ PB = 1
+ PBSW = 1
+ PBSWG = 1
+ MJ = 0.5
+ MJSW = 0.33
+ MJSWG = 0.33
+ AF = 1
+ EF = 1
+ KF = 0
+ UTE = -2.5
+ KT1 = -0.55
+ KT1L = 0
+ KT2 = 0.022
+ UA1 = 1E-009
+ UB1 = -7.61E-018
+ UC1 = -5.6E-011
+ AT = 3.3E+004
+ PRT = 5000
+ XTI = 3
+ TCJ = 0
+ TPB = 0
+ TCJSW = 0
+ TPBSW = 0
+ TCJSWG = 0
+ TPBSWG = 0
+ DWC = 0.05)
.MODEL SSM6K405TU_DDS1 D(
+ TNOM = 25
+ IS = 2.1E-012
+ RS = 0.07428
+ N = 1.16
+ CJO = 1.615E-011
+ VJ = 0.5479
+ M = 0.563
+ BV = 20
+ XTI = 5)
.MODEL SSM6K405TU_DDS2 D(
+ TNOM = 25
+ IS = 2.1E-012
+ RS = 0.07428
+ N = 1.16
+ CJO = 1.615E-011
+ VJ = 0.5479
+ M = 0.563
+ XTI = 5)
.MODEL SSM6K405TU_DGS1 D(
+ TNOM = 25
+ IS = 1E-014)
.MODEL SSM6K405TU_DGS2 D(
+ TNOM = 25
+ IS = 1E-014)
.ENDS
